2183-06-06 06:38:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Remained alkalemic o/n
   - Anion Gap normalized
   - Insulin drip converted to NPH + HISS with D51/2NS
   - Given 2 units pRBCs with appropriate bump after 2nd unit
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2183-6-6**] 12:15 AM
   Infusions:
   Other ICU medications:
   Dextrose 50% - [**2183-6-5**] 10:46 PM
   Pantoprazole (Protonix) - [**2183-6-6**] 06:01 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2183-6-6**] 06:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.4
C (97.6
   HR: 77 (75 - 92) bpm
   BP: 146/59(79) {138/50(60) - 161/68(86)} mmHg
   RR: 17 (11 - 26) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 73 Inch
           Total In:
                                                                  4,073 mL
                                                                  1,842 mL
   PO:
           TF:
   IVF:
                                                                  1,870 mL
                                                                  1,492 mL
   Blood products:
                                                                    278 mL
                                                                    350 mL
   Total out:
                                                                  1,172 mL
                                                                    486 mL
   Urine:
                                                                    372 mL
                                                                    486 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,901 mL
                                                                  1,356 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: 7.51/32/91/20/2
   Physical Examination
   Gen: Elderly gentleman in no acute distress
   Head & Neck: No JVD, dry mucous membranes
   Cardiac: S1 & S2 distant without murmur
   Pulm: Bilaterally clear to auscultation.  Tenderness about the L
   clavicular head
   Abd: Nontender or distended
   Extremities: No LE swelling, tenderness, edema.  2+ DP
   Neuro: AAOx3 2/5 strength LLE, 4-/5 RLE
   Skin: Decubitus Ulcer present
   Labs / Radiology
   379 K/uL
   10.1 g/dL
   224 mg/dL
   0.7 mg/dL
   20 mEq/L
   4.4 mEq/L
   19 mg/dL
   108 mEq/L
   138 mEq/L
   30.2 %
   15.5 K/uL
        [image002.jpg]
                             [**2183-6-5**]  05:00 PM
                             [**2183-6-5**]  05:51 PM
                             [**2183-6-5**]  07:37 PM
                             [**2183-6-5**]  08:37 PM
                             [**2183-6-5**]  11:40 PM
                             [**2183-6-6**]  03:50 AM
                             [**2183-6-6**]  05:06 AM
   WBC
   13.3
   16.1
   15.5
   Hct
   25.2
   23.8
   30.0
   30.2
   Plt
   363
   428
   379
   Cr
   1.0
   0.8
   0.7
   0.7
   TropT
   <0.01
   TCO2
   24
   26
   Glucose
   420
   235
   144
   224
   Other labs: PT / PTT / INR:15.2/32.0/1.3, CK / CKMB /
   Troponin-T:17/3/<0.01, ALT / AST:[**10-22**], Alk Phos / T Bili:168/0.5,
   Differential-Neuts:86.6 %, Lymph:6.4 %, Mono:6.4 %, Eos:0.3 %, Lactic
   Acid:1.5 mmol/L, LDH:136 IU/L, Ca++:7.8 mg/dL, Mg++:2.0 mg/dL, PO4:2.6
   mg/dL
   ESR: 105, CRP Pending
   Iron: 8 calTIBC: 170 Ferritn: 524 TRF: 131  Vit-B12:621 Folate:13.5
   Retic: 2.0
   Serial FSBS 7pm-6am: 365, 273, 193, 120, 169, 269, 272, 195
   Imaging: LENIs Pending
   U/S Pending
   Echo Pending
   Microbiology: Blood Cx pending
   Assessment and Plan
   An 83 year old man admitted to the ICU with diabetics ketoacidosis, GI
   bleed.  His acidosis has resolved and has shown no evidence of GI
   bleed.  He is doing well today.
   #  Diabetic Ketoacidosis: After insulin/glucose overnight the patient
   is no longer in DKA.  His anion gap has resolved, blood sugars remain
   in the 200 range and he is not acidemic.
   - q4 finger sticks/HISS
   - NPH 10 units AM/5 units PM
   - [**Hospital1 **] electrolyte monitoring
   #  GIB: The patient has not shown evidence of continued bleed.  No
   stools passed yet.  His hematocrit trend is difficult to interpret
   given his obvious hemoconcentration, fluid rehydration and blood
   transfusion.  However, he is now stable at a hematocrit of 30.  Related
   anemia appears to be anemia of chronic disease with low reticulocyte
   count (2.0) given his profound anemia.
   - T&S
   - Q12 Hct with goal Hct >25
   - Typed and crossed, maintain large bore access
   - GI following- does not advice endoscopy at this time
   - ADAT
   # Primary respiratory Alkalosis:  The patient has a mixed metabolic
   alkalosis, acidosis and a primary respiratory alkalosis which is not
   explained at this time.  ASA level negative.  PE workup in process.
   - F/U LENIs
   - will trend ABGs
   # Recent MRSA Bacteremia and s/p ORIF: treated for 10 day course
   without TEE evidence of endocarditis. Cx pending, TTE pending. ESR
   elevated
   - f/u cultures
   - PT/OT consult, ortho consult
   # BPH: Will contact urology for guidance on foley change given his
   difficult history with BPH and foley placement.  Continue to treat with
   ciprofloxacin while awaiting cultures.
   # Left clavicular superficial skin lesion: no e/o fx on cxr, may be
   superficial infection.
   - obtain ultrasound for further investigation of vascularity, consult
   ortho while they are evaluating his hip
   #.  Elevated INR: correcting, possible contribution of poor nutrition
   #. Dementia/Delirum
 likely delirium at times, toxic metabolic.
   Frequent re-orientation.
   #. Decubitus Ulcer
 wound care
   ICU Care
   Nutrition: Sips of clears
   Glycemic Control:  NPH+ Humalog insulin sliding scale
   Lines:
   PICC Line - [**2183-6-5**] 04:45 PM
   18 Gauge - [**2183-6-5**] 04:46 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition: Call out to Medicine

2183-06-07 07:15:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2183-6-6**] 08:25 AM
 PICC LINE - STOP [**2183-6-6**] 02:02 PM
 BLOOD CULTURED - At [**2183-6-6**] 05:22 PM
 BLOOD CULTURED - At [**2183-6-6**] 09:00 PM
 URINE CULTURE - At [**2183-6-6**] 09:00 PM
 FEVER - 101.5
F - [**2183-6-6**] 08:00 PM
   - CT scan showing only physilogic fluid, fx not healed, but per ortho,
   this may take many months; no role for drainage, WBAT
   - 3/4 bottles with coag + GPC in clusters, VANCO started
   - Seen by GI: no plan for endoscopy currently: [**Hospital1 **] PPI and no lovenox
   - Foley replaced by urology
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2183-6-6**] 12:15 AM
   Vancomycin - [**2183-6-6**] 05:22 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2183-6-6**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2183-6-7**] 07:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.5
   Tcurrent: 37.3
C (99.2
   HR: 69 (69 - 89) bpm
   BP: 169/50(82) {136/50(53) - 170/73(140)} mmHg
   RR: 18 (11 - 22) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 73 Inch
             Total In:
                                                                  4,745 mL
                                                                    141 mL
   PO:
             TF:
   IVF:
                                                                  4,395 mL
                                                                    141 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  1,546 mL
                                                                    310 mL
   Urine:
                                                                  1,546 mL
                                                                    310 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,199 mL
                                                                   -169 mL
   Respiratory support
   SpO2: 98%
   ABG: ///23/
   Physical Examination
   Gen: Elderly gentleman in no acute distress
   Head & Neck: No JVD, dry mucous membranes
   Cardiac: S1 & S2 distant without murmur
   Pulm: Bilaterally clear to auscultation.  Tenderness about the L
   clavicular head
   Abd: Nontender or distended
   Extremities: No LE swelling, tenderness, edema.  2+ DP
   Neuro: AAOx3 2/5 strength LLE, 4-/5 RLE
   Skin: Decubitus Ulcer present
   Labs / Radiology
   332 K/uL
   9.9 g/dL
   77 mg/dL
   0.6 mg/dL
   23 mEq/L
   3.5 mEq/L
   13 mg/dL
   110 mEq/L
   140 mEq/L
   29.7 %
   11.3 K/uL
        [image002.jpg]
                             [**2183-6-5**]  05:00 PM
                             [**2183-6-5**]  05:51 PM
                             [**2183-6-5**]  07:37 PM
                             [**2183-6-5**]  08:37 PM
                             [**2183-6-5**]  11:40 PM
                             [**2183-6-6**]  03:50 AM
                             [**2183-6-6**]  05:06 AM
                             [**2183-6-6**]  04:30 PM
                             [**2183-6-7**]  03:54 AM
   WBC
   13.3
   16.1
   15.5
   14.1
   11.3
   Hct
   25.2
   23.8
   30.0
   30.2
   32.7
   29.7
   Plt
   363
   428
   379
   429
   332
   Cr
   1.0
   0.8
   0.7
   0.7
   0.7
   0.6
   TropT
   <0.01
   TCO2
   24
   26
   Glucose
   420
   235
   144
   224
   137
   77
   Other labs: PT / PTT / INR:15.2/35.6/1.3, CK / CKMB /
   Troponin-T:17/3/<0.01, ALT / AST:[**7-26**], Alk Phos / T Bili:133/0.5,
   Differential-Neuts:86.6 %, Lymph:6.4 %, Mono:6.4 %, Eos:0.3 %, Lactic
   Acid:1.5 mmol/L, Albumin:2.4 g/dL, LDH:136 IU/L, Ca++:7.7 mg/dL,
   Mg++:1.7 mg/dL, PO4:2.3 mg/dL
   [**6-6**] knee films:
   Adequate position of hardware in distal femur. No evidence of
   loosening.
   [**6-6**]
   LEFT HIP AND FEMUR, FIVE VIEWS: The patient is status post ORIF of an
   intratrochanteric fracture of the left femur. The fracture is
   comminuted.
   The hardware is intact. There is no evidence for loosening or fracture
   of the
   hardware
   [**6-6**] LENI:  No evidence of DVT in the bilateral lower extremities.
   [**6-6**] Neck US:
   1.5 x 0.8 x 0.5 cm echopenic lesion over the left clavicular
   head most likely represent a synovial fluid pocket/cyst, less likely a
   lymph
   node. Followup imaging can be performed as clinically indicated.
   Blood cx [**6-5**]:  staph aureas
   Urine cx [**6-3**]:  pseudomonas
   Assessment and Plan
 DIABETIC KETOACIDOSIS (DKA)
   Resolving
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 ALKALOSIS, MIXED
 PROSTATIC HYPERTROPHY, BENIGN (BPH)
   Planned TURP, on hold by Medical Admission
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 COAGULOPATHY
   INR and PTT initally elevated
 DECUBITUS ULCER (PRESENT AT ADMISSION)
 HIP FRACTURE (FEMORAL NECK FRACTURE, FEMUR)
   s/p ORIF [**3-24**]
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   ?Left Clavicular Fracture
   .
   An 83 year old man admitted to the ICU with diabetics ketoacidosis, GI
   bleed.  His acidosis has resolved and has shown no evidence of GI
   bleed.  He is doing well today.
   #  Diabetic Ketoacidosis: After insulin/glucose overnight the patient
   is no longer in DKA.  His anion gap has resolved, blood sugars remain
   in the 200 range and he is not acidemic.
   - q4 finger sticks/HISS
   - NPH 10 units AM/5 units PM
   - [**Hospital1 **] electrolyte monitoring
   #  GIB: The patient has not shown evidence of continued bleed.  No
   stools passed yet.  His hematocrit trend is difficult to interpret
   given his obvious hemoconcentration, fluid rehydration and blood
   transfusion.  However, he is now stable at a hematocrit of 30.  Related
   anemia appears to be anemia of chronic disease with low reticulocyte
   count (2.0) given his profound anemia.
   - T&S
   - Q12 Hct with goal Hct >25
   - Typed and crossed, maintain large bore access
   - GI following- does not advice endoscopy at this time
   - ADAT
   # Primary respiratory Alkalosis:  The patient has a mixed metabolic
   alkalosis, acidosis and a primary respiratory alkalosis which is not
   explained at this time.  ASA level negative.  PE workup in process.
   - F/U LENIs
   - will trend ABGs
   # Recent MRSA Bacteremia and s/p ORIF: treated for 10 day course
   without TEE evidence of endocarditis. Cx pending, TTE pending. ESR
   elevated
   - f/u cultures
   - PT/OT consult, ortho consult
   # BPH: Will contact urology for guidance on foley change given his
   difficult history with BPH and foley placement.  Continue to treat with
   ciprofloxacin while awaiting cultures.
   # Left clavicular superficial skin lesion: no e/o fx on cxr, may be
   superficial infection.
   - obtain ultrasound for further investigation of vascularity, consult
   ortho while they are evaluating his hip
   #.  Elevated INR: correcting, possible contribution of poor nutrition
   #. Dementia/Delirum
 likely delirium at times, toxic metabolic.
   Frequent re-orientation.
   #. Decubitus Ulcer
 wound care
   ICU Care
   Nutrition: clears
   Glycemic Control:  NPH + SS
   Lines:
   18 Gauge - [**2183-6-5**] 04:46 PM
   Prophylaxis:
   DVT: boots
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: